US08877779B2
5-Fluoroacenaphthen-1-one (1.9 g) was dissolved in methanol (40 ml), sodium borohydride (470 mg) was added, and the mixture was stirred at room temperature for 40 min. To the reaction mixture was gradually added aqueous ammonium chloride solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated sodium chloride, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure to give 5-fluoro-1-acenaphthenol (1.8 g). The obtained alcohol form (1.56 g) was dissolved in chloroform (12 ml). Thionyl chloride (2 ml) was added under ice-cooling, and the mixture was heated under reflux for 1 hr. The solvent was evaporated, and the obtained residue was dissolved in N,N-dimethylformamide (20 ml). 4-(2-Keto-1-benzimidazolinyl)piperidine (1.4 g), potassium carbonate (3.4 g) and sodium iodide (1.3 g) were added, and the mixture was stirred at 145° C. for 40 min. After allowing to cool, the reaction mixture was extracted with ethyl acetate, and the extract was washed with saturated sodium chloride, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel chromatography, and recrystallized from ethyl acetate to give the title compound (690 mg).

reactant | 5-Fluoroacenaphthen-1-one | 1.9 g | FC1=CC=C2CC(C=3C=CC=C1C32)=O | C12H7FO
reactant | sodium borohydride | 470 mg | [BH4-].[Na+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | methanol | 40 ml | CO | CH4O
product | 5-fluoro-1-acenaphthenol | 1.8 g | FC1=CC=C2CC(C=3C=CC=C1C32)O | C12H9FO
